Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dicloxacillin / Amoxicillin / lisinopril / Cephalexin / 
amlodipine / Erythromycin Base / Vicodin ES / atenolol / 
spironolactone / Oxycodone / Povan for worms
 
Attending: ___.
 
Chief Complaint:
atrial fibrillation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ old Female with PMH significant 
hypertension, hyperlipidemia, asthma, non-insulin dependent 
diabetes mellitus, history of breast cancer, history of 
non-Hodgkin lymphoma (low-grade follicular lymphoma in 
remission), obesity, glaucoma and atrial fibrillation (on 
systemic anticoagulation) presenting for dofetilide loading for 
rhythm control given her atrial fibrillation.  

Per her Atrius records, she was first noted to have rapid atrial 
fibrillation sometime this in ___ on a pre-operative visit 
for eye surgery. Since then, she seems to have had paroxysmal 
atrial arrhythmias, frqently aflutter, sometime afib/flutter or 
afib. She does not report any particular palpitations, but does 
state that since starting ___ she has generally been 
feeling unwell this year. She is more short of breath than 
usual. She is also much more fatigued and generally lightheaded 
all the time. This is particularly worse with exertion. Her 
exercise tolerance right now is ___ ft. 

She has been tried on diltiazem for rate control which caused 
lightheadedness, metoprolol that caused fatigue and worsened her 
dyspnea and amiodarone that caused lightheadedness. She is 
currently on verapamil and is tolerating this moderately well.  
Given her difficult to control heart rates (clinic visits show 
HRs in the 120-130 bpm range) on the above medications, Dr. 
___ that dofetilide would be appropriate after 
consultation in clinic on ___. 

She currently report SOB with exertion and denies with rest. 
Denies chest pain or palpitations. Denies orthopnea ___ edema. 
Also denies N/V or sweats. Reports neuropathy from DM.
 
On review of systems, she denies prior history of stroke, TIA, 
deep venous thrombosis, pulmonary embolism, bleeding at the time 
of surgery, cough, hemoptysis, black stools or red stools. She 
denies recent fevers, chills or rigors. She denies exertional 
buttock or calf pain.
 
Past Medical History:
- hypertension  
- hyperlipidemia  
- asthma  
- non-insulin dependent diabetes mellitus  
- history of breast cancer  
- history of non-Hodgkin lymphoma (low-grade follicular 
lymphoma, in remission s/p Rit-CVP in ___, last 2 cycles of 
vincristine held due to paresthesias, maintenance rituximab in 
___  
- obesity  
- glaucoma  
- atrial fibrillation (on systemic anticoagulation)  

 
Social History:
___
Family History:
Mother had pacemaker. Father had heart condition, unsure of 
specifics.
 
 
Physical Exam:
ADMISSION:
VS: 98.0  131/88  157  26  99% RA
BP 130/85 supine, 120/87 sitting, 110/78 standing
89.3 kg
General:  elderly woman, NAD
HEENT:  Op clear, MMM
Neck:  No JVD appreciated
CV:  tachycardic, regular rhythm, no m/r/g appreciated
Lungs:   CTA bl
Abdomen:  obese, soft, non-tender
Ext:  no ___
PULSES:  1+ DP bilaterally

DISCHARGE:
VS: 97.8  155/66  55  18  100% RA
Wt: 88.1 kg
General:  elderly woman, NAD
HEENT:  Op clear, MMM
Neck:  No JVD appreciated
CV:  RRR, no m/r/g appreciated
Lungs:   CTA bl
Abdomen:  obese, soft, non-tender
Ext:  no ___
 
___ Results:
=========================
Labs:
=========================

Admission labs:
-----------------
___ 07:30PM BLOOD WBC-5.3 RBC-4.25 Hgb-11.6* Hct-37.0 
MCV-87 MCH-27.3 MCHC-31.3 RDW-15.5 Plt ___
___ 07:30PM BLOOD ___ PTT-39.4* ___
___ 07:30PM BLOOD Glucose-153* UreaN-22* Creat-1.1 Na-140 
K-4.0 Cl-105 HCO3-25 AnGap-14
___ 07:30PM BLOOD Calcium-10.1 Phos-3.4 Mg-1.6

Discharge labs:
-----------------
___ 07:15AM BLOOD WBC-5.9 RBC-4.51 Hgb-11.6* Hct-38.3 
MCV-85 MCH-25.8* MCHC-30.4* RDW-15.5 Plt ___
___ 07:15AM BLOOD ___ PTT-33.8 ___
___ 07:15AM BLOOD Glucose-143* UreaN-21* Creat-1.1 Na-142 
K-5.0 Cl-105 HCO3-27 AnGap-15
___ 07:15AM BLOOD Calcium-9.6 Phos-3.2 Mg-1.9

=========================
Studies:
=========================
ECG Study Date of ___  4:31:56 ___ 
 
Atrial tachycardia versus atrial flutter with a rapid 
ventricular response. 
Compared to the previous tracing of ___ the rate is 
increased and the 
rhythm has changed. 
TRACING #1 
   
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
159 0 80 252/425 0 -32 158 

ECG Study Date of ___  12:04:30 AM 
   
Atrial flutter with variable block. Compared to the previous 
tracing  
ventricular response rate has decreased. Typical flutter waves 
are now seen. 

TRACING #2 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
79 0 94 374/407 0 3 59 

ECG Study Date of ___  6:14:02 AM 
 
Sinus rhythm. Compared to the previous tracing the rate and 
rhythm have 
changed.  
TRACING #3 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
73 174 90 ___ 54 

ECG Study Date of ___  10:18:58 AM 
 
Sinus rhythm. Compared to tracing #3 no change.  
TRACING #4 
   
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
60 162 90 454/454 36 -3 ___ with PMH significant hypertension, hyperlipidemia, asthma, 
non-insulin dependent diabetes mellitus, history of breast 
cancer, and history of non-Hodgkin lymphoma (low-grade 
follicular lymphoma in remission), with atrial flutter, afib, 
and afib/flutter over last ___ months who presented for 
dofetilide loading for rhythm control. 
 
# Atrial flutter, history of afib and afib/flutter:
EKG at admission showed aflutter at ~160 bpm. Other than 
lightheadedness with standing, pt was symptomatic. She was 
started on dofetilide 250mg q12h with EKG monitoring. Her QTc 
was 462 on discharge. K+ and Mg were monitored and repleted 
agressively. She was also started on diltiazem, which was 
changed to extended release 120mg prior to discharge. After one 
dose of dofetilide, she converted to sinus rhythm. While in 
sinus, she still has symptoms of orthostatic hypotension. She 
flipped between sinus rhythm and aflutter/afib multiple times 
prior to discharge. In this setting her HR was briefly as low as 
39 while in sinus, and as high as ~125 while in aflutter/afib 
during the day prior to discharge. She remained on coumadin for 
anticoagulation. INR was 1.7 at day of discharge.

# Orthostatic hypotension: 
Pt reported recent history of feeling lightheaded with standing. 
Had 20mm Hg drop in BP from supine to standing on admission. 
Given persistence of symptoms after conversion to sinus rhythm, 
likely due to medication side effect and/or autonomic 
dysfunction in setting of DM. Home furosemide 20mg po daily and 
terazosin were discontinued. Had arrhythmia management per 
above.

# Diabetes mellitus:
HbA1c < 7.0% recently. Home oral hypoglycemics were held, and pt 
was treated with short-acting insulin sliding scale.
   
# Hypertension: 
Well-controlled during admission. Per above, home furosemide 
20mg po daily and terazosin were discontinued given orthostatic 
hypotension. Per above, pt verapamil was changed to diltiazem.
 
# Hyperlipidemia: 
Continued on statin and aspirin for primary prevention. 
 
# Follicular lymphoma: 
S/p treatment, in remission. 

==================================
Transitional issues:
==================================
- monitor heart rate and rhythm; during admission, pt flipped 
between sinus and aflutter/afib multiple time; HR as low as 39 
while in sinus
- monitor QTc on dofetilide (QTc 462 on ___
- titrate diltiazem as needed
- furosemide and terazosin were discontinued during admission 
due to orthostatic hypotension; monitor BP and consider 
restarting
- Consider ablation if atrial flutter / afib persists
- please check INR ___ monitor INR and adjust warfarin 
dosing as needed (INR 1.7 at discharge on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE XL 2.5 mg PO QAM 
2. Warfarin 3.75 mg PO 3X/WEEK (___) 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Flovent HFA (fluticasone) 220 mcg/actuation inhalation 2 
puffs BID 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
6. Furosemide 20 mg PO DAILY 
7. Simvastatin 10 mg PO QPM 
8. Terazosin 2 mg PO HS 
9. Lansoprazole Oral Disintegrating Tab 30 mg PO 30 MINUTES 
BEFORE FIRST MEAL OF DAY 
10. MetFORMIN (Glucophage) 1000 mg PO BID 
11. Aspirin 81 mg PO DAILY 
12. Verapamil SR 360 mg PO Q24H 
13. Warfarin 5 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Lansoprazole Oral Disintegrating Tab 30 mg PO 30 MINUTES 
BEFORE FIRST MEAL OF DAY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
5. Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth once daily Disp 
#*30 Capsule Refills:*0
6. Flovent HFA (fluticasone) 220 mcg/actuation inhalation 2 
puffs BID 
7. GlipiZIDE XL 2.5 mg PO QAM 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Simvastatin 10 mg PO QPM 
10. Dofetilide 250 mcg PO Q12H 
11. Warfarin 5 mg PO 4X/WEEK (___) 
12. Warfarin 3.75 mg PO 3X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-atrial flutter

Secondary:
-DM
-Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you. You were hospitalized due you 
an elevated heart rate. You were found to be in a heart rhythm 
called atrial flutter. You were given medications to slow your 
heart rate and attempt to convert your heart to a normal rhythm. 
Your heart rhythm did convert to a normal rhythm, but switches 
between a normal rhythm and an abnormal rhythm periodically. We 
feel you are safe for discharge at this time. 

We made several changes to your medications. The medication list 
you brought in said you were taking 2.5 mg of warfarin 
(coumadin) daily, but your outpatient doctors thought ___ were 
on a higher dose. Your INR was too low on 2.5 mg daily, so we 
increased your warfarin to your listed outpatient dose of 3.75 
mg 3x/week and 5 mg 4x/week. 

We changed your verapimil to diltiazem. You have been having 
lightheadedness, so we stopped your furosemide (Lasix) and 
terazosin for now. 

Please take your medications as prescribed and follow up with 
your cardiologist and primary care physician.
 
Followup Instructions:
___